US06020345
Stage 4: 6-(1H-pyrazol-3-yl)pyridine-2-carbaldehyde
The deprotection of the acetal function of 2-[1,3]dioxolan-2-yl-6-(1H-pyrazol-3-yl)pyridine is carried out on 0.65 g of product (2.99 mmol) according to a protocol similar to that used in stage 5 of Example 7. The title compound is isolated by chromatography on a silica column (eluent: chloroform/methanol; 98:2). 0.31 g of a white foam is obtained.

reactant | 2-[1,3]dioxolan-2-yl-6-(1H-pyrazol-3-yl)pyridine | O1C(OCC1)C1=NC(=CC=C1)C1=NNC=C1 | C11H11N3O2
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 6-(1H-pyrazol-3-yl)pyridine-2-carbaldehyde | N1N=C(C=C1)C1=CC=CC(=N1)C=O | C9H7N3O
